US04292317
2.55 (0.01 mol) of 7-chloro-6-fluoro-1-methyl-4-oxo-1,4-dihydro-quinoline-3-carboxylic acid, 3.5 cm3 of morpholine (0.01 mol) and 34 cm3 of DMSO were heated at 110° C. for 7 hours, whilst stirring. The reaction product precipitated after heating for 5 hours. After cooling, the mixture was diluted with water (100 cm3) and the solid was filtered off, washed with water and recrystallised from DMF (45 cm3). 1 g of 6-fluoro-1-methyl-7-morpholino-4-oxo-1,4-dihydro-quinoline-3-carboxylic acid, m.p. 316° C. (decomposition), was obtained.

reactant | 7-chloro-6-fluoro-1-methyl-4-oxo-1,4-dihydro-quinoline-3-carboxylic acid | ClC1=C(C=C2C(C(=CN(C2=C1)C)C(=O)O)=O)F | C11H7ClFNO3
reactant | morpholine | 0.01 mol, 3.5 cm3 | N1CCOCC1 | C4H9NO
solvent | DMSO | 34 cm3 | CS(=O)C | C2H6OS
product | 6-fluoro-1-methyl-7-morpholino-4-oxo-1,4-dihydro-quinoline-3-carboxylic acid | 1 g | FC=1C=C2C(C(=CN(C2=CC1N1CCOCC1)C)C(=O)O)=O | C15H15FN2O4
